US08703784B2
Step 5: Preparation of tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate
tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate (1.1 g, 1.77 mmol) was suspended in acetonitrile (20 mL) and treated with NIS (396.4 mg, 1.77 mmol) at room temperature. The mixture was stirred for 30 min. Then solvent was evaporated off under reduced pressure, and the crude material was purified by column chromatography (SiO2, 0-40% hexane-EtOAc) to provide desired compound tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate (1.37 g). HPLC-MS tR=3.37 min (UV254 nm). Mass calculated for formula C30H52IN5O5Si2 745.2; observed MH+ (LCMS) 746.0 (m/z).

reactant | tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate | 1.77 mmol, 1.1 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2CC1COCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H53N5O5Si2
reactant | NIS | 1.77 mmol, 396.4 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate | 1.37 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2I)C2CC1COCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H52IN5O5Si2
